US07973026B2
Step 7: (7R)-13-cyclohexyl-7-(dimethylamino)-10-methyl-7,8-dihydro-6H-thieno[2′,3′:4,5]pyrrolo[1,2-e][1,5]benzoxazocine-11-carboxylic acid
Methyl (7R)-7-{[(benzyloxy)carbonyl]amino}-13-cyclohexyl-10-methyl-7,8-dihydro-6H-thieno[2′,3′:4,5]pyrrolo[1,2-e][1,5]benzoxazocine-11-carboxylate was dissolved EtOAc/MeOH and the solution (0.014M) was degassed. Pd/C was added and hydrogen atmosphere was applied. The mixture was left stirring under hydrogen atmosphere for 4 h. The mixture was filtered and evaporated i. vac. The residual material was lyophilised from MeCN/water to give a colourless powder. This material was dissolved in DCM (0.05M) and the pH was adjusted with AcOH to 4. A solution of formaldehyde (16 eq.) in water was added and the mixture was left stirring for 10 min at RT. Then NaCNBH3 (12 eq.) was added and stirring was continued for 6 h. The mixture was diluted with DCM and extracted with sat. aq. NaHCO3-solution. The organic phase was dried over Na2SO4 and evaporated i. vac. This material was dissolved in MeOH and THF was added (0.02M). To the solution 1M aq. KOH solution (excess) was added and the resulting mixture was warmed to 40° C. overnight. The product was isolated by prep. RP-HPLC. After lyophilisation, the product was obtained as a colourless powder (68%). 1H-NMR (TFA-salt, 400 MHz, DMSO-d6, 300K, δ): 12.77 (bs, 1H); 10.40 (bs, 1H), 7.46-7.42 (m, 1H), 7.23-7.09 (m, 3H), 5.03-5.00 (m, 1H), 4.44-4.41 (m, 1H), 4.10-4.03 (m, 1H), 3.82-3.58 (m, 2H), 2.97 (bs, 6H) 2.83 (s, 3H), 2.67-2.52 (m, 1H), 1.99-1.55 (m, 7H), 1.38-1.12 (m, 3H); MS (ES+) m/z 439 (M+H)+.

reactant | Methyl (7R)-7-{[(benzyloxy)carbonyl]amino}-13-cyclohexyl-10-methyl-7,8-dihydro-6H-thieno[2′,3′:4,5]pyrrolo[1,2-e][1,5]benzoxazocine-11-carboxylate | C(C1=CC=CC=C1)OC(=O)N[C@H]1COC2=C(C=3N(C1)C1=C(C3C3CCCCC3)SC(=C1C)C(=O)OC)C=CC=C2 | C32H34N2O5S
reactant | EtOAc MeOH | CCOC(=O)C.CO
reactant | formaldehyde | 16 eq. | C=O | CH2O
reactant | NaCNBH3 | 12 eq. | [BH3-]C#N.[Na+]
solvent | DCM | 0.05M | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | AcOH | CC(=O)O | C2H4O2
product | (7R)-13-cyclohexyl-7-(dimethylamino)-10-methyl-7,8-dihydro-6H-thieno[2′,3′:4,5]pyrrolo[1,2-e][1,5]benzoxazocine-11-carboxylic acid | 68% | C1(CCCCC1)C=1C2=C(N3C[C@H](COC4=C(C31)C=CC=C4)N(C)C)C(=C(S2)C(=O)O)C | C25H30N2O3S
